US06251925B1
Methyl 3′-[(2-[[(tert-butoxy)carbonyl]amino]acetylamino)]-[1,1′-biphenyl]-3-carboxylate
To a mixture of 3′-amino-[1,1′-biphenyl]-3-carboxylic methyl ester (1.14 g) and N-(tert-butoxycarbonyl)glycine (0.879 g) in methylene chloride (20 mL) was added 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (1.20 g). The mixture was stirred for 3 h at room temperature, then washed twice with 1 N aqueous HCl, twice with saturated aqueous sodium bicarbonate and once with brine. The mixture was dried over sodium sulfate, filtered and concentrated to give a foam. Purification by silica gel chromatography eluting with 7:3 hexane/ethyl acetate gave 1.6 g of the title compound as a colorless oil. Electrospray MS (positive ion): (M+Na) 407.0.

reactant | 3′-amino-[1,1′-biphenyl]-3-carboxylic methyl ester | 1.14 g | COC(=O)C=1C=C(C=CC1)C1=CC(=CC=C1)N | C14H13NO2
reactant | N-(tert-butoxycarbonyl)glycine | 0.879 g | C(C)(C)(C)OC(=O)NCC(=O)O | C7H13NO4
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 1.20 g | Cl.CN(CCCN=C=NCC)C
solvent | methylene chloride | 20 mL | C(Cl)Cl | CH2Cl2
product | Methyl 3′-[(2-[[(tert-butoxy)carbonyl]amino]acetylamino)]-[1,1′-biphenyl]-3-carboxylate | 1.6 g | C(C)(C)(C)OC(=O)NCC(=O)NC=1C=C(C=CC1)C1=CC(=CC=C1)C(=O)OC | C21H24N2O5
